US09328192B2
To a mixture of ricinoleic acid (1600 g), triethylamine (1100 mL) in acetone (6 L) at 0-5° C., was added 4-nitro benzoyl chloride (1200 g). It was stirred at room temperature for 16 hours. After the reaction was completed then the total reaction mass was poured onto cold water (12 L) and extracted with ethyl acetate (6 liter) and combined total organic layers and washed with 15% NaHCO3 solution (IL) and 15% NaCl solution (1.0 L) followed by water washing (1.0 L), then dry the organic layer with sodium sulphate and distilled up the solvent under reduced pressure completely till thick oily mass is obtained. Resulting crude was purified by column chromatography by using hexane: ethyl acetate (9:1) to yield pure 4-nitro-benzoic acid 11-carboxy-1-hexyl-undec-3-enyl ester product as light yellow thick syrup (750 g). The resulting compound was characterized by 1H NMR (DMSO-d6) δ 0.85 (t, 3H, CH3), 1.12-1.6 (m, 22H, 11×CH2), 1.91 (m, 2H, CH2), 2.2-2.32 (m, 4H, 2×CH2), 3.5 (m, 1H, CH) 5.52 (m, 1H, CH), 5.65 (m, 1H, CH), 8.25-8.35 (m, 4H, Ar).

reactant | ricinoleic acid | 1600 g | C(CCCCCCC\C=C/C[C@H](O)CCCCCC)(=O)O | C18H34O3
reactant | triethylamine | 1100 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitro benzoyl chloride | 1200 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 12 L | O | H2O
solvent | acetone | 6 L | CC(=O)C | C3H6O
product | 4-nitro-benzoic acid 11-carboxy-1-hexyl-undec-3-enyl ester | 750 g | C(=O)(O)CCCCCCCC=CCC(CCCCCC)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C25H37NO6
